US08754079B2
225.3. 4-(4-fluoro-2-(3-hydroxycyclopentyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide
HATU (147 mg) was added at 0° C. to a mixture of 4-(4-fluoro-2-(3-hydroxycyclopentyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxilic acid (130 mg) and DIPEA (67 μl) in DMF (2.0 ml). After 30 min 7 M NH3 in MeOH (1.0 ml) was added and the mixture was allowed to warm to room temperature over weekend. The reaction mixture was concentrated in vacuo. The residue was treated with hot MeOH. The mixture was allowed to cool, then it was filtered to yield the desired product.

reactant | HATU | 147 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(4-fluoro-2-(3-hydroxycyclopentyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxilic acid | 130 mg | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)OC2CC(CC2)O | C19H18FN3O4S
reactant | DIPEA | 67 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | NH3 | 7 M | N | H3N
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 1.0 ml | CO | CH4O
product | 4-(4-fluoro-2-(3-hydroxycyclopentyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)OC2CC(CC2)O | C19H19FN4O3S
